US04282242
3-Benzoylacrylic acid (3 g.) was refluxed for 2 hours with 100 ml. of methylene chloride and 10 ml. thionyl chloride. Concentration to dryness gave 3-benzoylacrylyl chloride. Methanol (15 ml.) was added and the resulting solution stirred for 0.5 hour. Ether (35 ml.) was added. The resulting organic mixture was washed in sequence with 15 ml. of water, 15 ml. of 1 N sodium hydroxide and twice with 15 ml. of water, concentrated to an oil, the oil triturated with 25 ml. of hot hexane, decanted from insolubles and the hexane concentrated to yield methyl 3-benzoylacrylate (1.9 g., oil, m/e 190).

reactant | 3-Benzoylacrylic acid | 3 g | C(C1=CC=CC=C1)(=O)C=CC(=O)O | C10H8O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-benzoylacrylyl chloride | C(C1=CC=CC=C1)(=O)C=CC(=O)Cl | C10H7ClO2
